### PR TITLE
feat(Paper): conjectures around homogenous topological spaces

### PR DESCRIPTION
**Pull request by felixpernegger**
Adds problems 13,14,15,16,17 (they are all quite similar) of #1849

### CODE REVIEW

File: FormalConjectures/Paper/Homogenous.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+open scoped Cardinal
+
+namespace Homogenous
+
+/--
+A topological space $X$ is called *homogenous* if for all $x, y \in X$ there is homeomorphism
+$f : X \to X$ with $f(x) = y$.
+-/
+class HomogenousSpace (X : Type*) [TopologicalSpace X] : Prop where
+  exists_equiv : ∀ x y : X, ∃ f : X ≃ X, f x = y
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]: (otherwise this is a bijection rather than a homeomorphism)
```suggestion
  exists_equiv : ∀ x y : X, ∃ f : X ≃ₜ X, f x = y
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+open TopologicalSpace Filter Set
+open scoped Cardinal
+
+namespace Homogenous
+
+/--
+A topological space $X$ is called *homogenous* if for all $x, y \in X$ there is homeomorphism
+$f : X \to X$ with $f(x) = y$.
+-/
+class HomogenousSpace (X : Type*) [TopologicalSpace X] : Prop where
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
class HomogeneousSpace (X : Type*) [TopologicalSpace X] : Prop where
```
and everywhere else

File: FormalConjectures/Paper/Homogenous.lean [hunk 3]
```diff
@@ -0,0 +1,106 @@
...
+  exists_equiv : ∀ x y : X, ∃ f : X ≃ₜ X, f x = y
+
+/-- Every discrete space is homogenous -/
+@[category test, AMS 54]
+instance DiscreteTopology.toHomogenousSpace (X : Type*) [TopologicalSpace X] [DiscreteTopology X] :
+    HomogenousSpace X := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]: Maybe prove this? You'll need `Equiv.Perm.swap`

File: FormalConjectures/Paper/Homogenous.lean [hunk 4]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- Problem 13 in [Ar2013]:
+Is it true that every infinite homogeneous compact
+space contains a non-trivial convergent sequence? -/
+@[category research open, AMS 54]
+theorem homogenousSpace_exists_inj_tendsto :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), ¬ Finite X → CompactSpace X →
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), Infinite X → CompactSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 5]
```diff
@@ -0,0 +1,106 @@
...
+      HomogenousSpace X → ∃ s : ℕ → X, s.Injective ∧ ∃ a : X, Tendsto s atTop (nhds a) := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
      HomogenousSpace X → ∃ s : ℕ → X, s.Injective ∧ ∃ a : X, Tendsto s atTop (\nhds a) := by
```
with `open Topology`

File: FormalConjectures/Paper/Homogenous.lean [hunk 6]
```diff
@@ -0,0 +1,106 @@
...
+  sorry
+
+/-- Problem 14 in [Ar2013]:
+Is it possible to represent an arbitrary compact space as an image
+of a homogeneous compact space under a continuous mapping? -/
+@[category research open, AMS 54]
+theorem homogenousSpace_exists_surjective :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X →
+      ∃ (Y : Type*) (_ : TopologicalSpace Y), CompactSpace Y ∧ HomogenousSpace Y ∧
+        ∃ f : Y → X, Continuous f ∧ f.Surjective := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean:69]: That's not how I would interpret "represent"
```suggestion
        ∃ f : Y → X, IsInducing f ∧ f.Surjective := by
```
See https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.IsInducing

File: FormalConjectures/Paper/Homogenous.lean [hunk 7]
```diff
@@ -0,0 +1,106 @@
...
+  sorry
+
+/-- A topological space is called ω-monolithic if
+the closure of every countable subspace is metrizable. -/
+class CountablyMonolithicSpace (X : Type*) [TopologicalSpace X] : Prop where
+  metrizable_of_closure_of_countable : ∀ ⦃s : Set X⦄, s.Countable → MetrizableSpace (closure s)
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean:75]:
```suggestion
  metrizableSpace_closure_of_countable : ∀ ⦃s : Set X⦄, s.Countable → MetrizableSpace (closure s)
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 8]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- Every Metrizable space is ω-monolithic. -/
+@[category test, AMS 54]
+instance MetrizableSpace.countablyMonolithicSpace
+    (X : Type*) [TopologicalSpace X] [MetrizableSpace X] : CountablyMonolithicSpace X := by
+  refine { metrizable_of_closure_of_countable := ?_ }
+  intros
+  infer_instance
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean:83]:
```suggestion
    (X : Type*) [TopologicalSpace X] [MetrizableSpace X] : CountablyMonolithicSpace X where
  metrizable_of_closure_of_countable _ _ := inferInstance
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 9]
```diff
@@ -0,0 +1,106 @@
...
+      CountablyMonolithicSpace X → #X ≤ 𝔠 := by
+  sorry
+
+/-- Problem 17 in [Ar2013]:
+Is it true that every ω-monolithic compact space contains a point with a
+first countable neighborhood basis? -/
+@[category research open, AMS 54]
+theorem countablyMonolithicSpace_exists_nhds_generated_countable :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X →
+      CountablyMonolithicSpace X → ∃ x : X, (nhds x).IsCountablyGenerated := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
      CountablyMonolithicSpace X → ∃ x : X, (\nhds x).IsCountablyGenerated := by
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 10]
```diff
@@ -0,0 +1,106 @@
...
+Is the cardinality of every homogeneous ω-monolithic compact space not greater than 𝔠? -/
+@[category research open, AMS 54]
+theorem countablyMonolithicSpace_card_lt :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X → HomogenousSpace X →
+      CountablyMonolithicSpace X → #X ≤ 𝔠 := by
+  sorry
+
+/-- Problem 17 in [Ar2013]:
+Is it true that every ω-monolithic compact space contains a point with a
+first countable neighborhood basis? -/
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean:103]: What does this mean? Do you not just mean
```suggestion
countable neighborhood basis? -/
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 11]
```diff
@@ -0,0 +1,120 @@
...
+
+/-- A bijection between discrete topoligical spaces is a homeomorpism. -/
+@[category test, AMS 54]
+theorem IsHomeomorph.equiv_of_discreteTopology {X  Y : Type*} [TopologicalSpace X]
+  [DiscreteTopology X] [TopologicalSpace Y] [DiscreteTopology Y]
+    (f : X ≃ Y) : IsHomeomorph f := by
+  refine isHomeomorph_iff_exists_inverse.mpr ⟨continuous_of_discreteTopology,
+    Exists.intro f.symm ⟨?_, ?_, continuous_of_discreteTopology⟩⟩
+  · exact Equiv.leftInverse_symm f
+  · exact Equiv.rightInverse_symm f
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]: Can you prove this by first constructing the corresponding homeo? You can call it `Homeomorph.ofDiscrete` and put it in ForMathlib

Comment (felixpernegger) [reply FormalConjectures/Paper/Homogenous.lean]: oki

File: FormalConjectures/Paper/Homogenous.lean [hunk 12]
```diff
@@ -40,15 +40,24 @@ $f : X \to X$ with $f(x) = y$.
 class HomogeneousSpace (X : Type*) [TopologicalSpace X] : Prop where
   exists_equiv : ∀ x y : X, ∃ f : X ≃ₜ X, f x = y
 
+
+/- A bijection between discrete topological spaces induces a homeomorphism. -/
+def Homeomorph.OfDiscrete {X  Y : Type*} [TopologicalSpace X]
+  [DiscreteTopology X] [TopologicalSpace Y] [DiscreteTopology Y]
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    [DiscreteTopology X] [TopologicalSpace Y] [DiscreteTopology Y]
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 13]
```diff
@@ -40,15 +40,24 @@ $f : X \to X$ with $f(x) = y$.
...
+    (f : X ≃ Y) : X ≃ₜ Y where
+  toFun := f
+  invFun := f.symm
+  left_inv := Equiv.leftInverse_symm f
+  right_inv := Equiv.rightInverse_symm f
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
  toEquiv := f
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 14]
```diff
@@ -40,15 +40,24 @@ $f : X \to X$ with $f(x) = y$.
...
 @[category test, AMS 54]
 theorem IsHomeomorph.equiv_of_discreteTopology {X  Y : Type*} [TopologicalSpace X]
   [DiscreteTopology X] [TopologicalSpace Y] [DiscreteTopology Y]
-    (f : X ≃ Y) : IsHomeomorph f := by
-  refine isHomeomorph_iff_exists_inverse.mpr ⟨continuous_of_discreteTopology,
-    Exists.intro f.symm ⟨?_, ?_, continuous_of_discreteTopology⟩⟩
-  · exact Equiv.leftInverse_symm f
-  · exact Equiv.rightInverse_symm f
+    (f : X ≃ Y) : IsHomeomorph f :=
+  isHomeomorph_iff_exists_homeomorph.mpr (Exists.intro (Homeomorph.OfDiscrete f) rfl)
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
  (Homeomorph.OfDiscrete f).isHomeomorph
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 15]
```diff
@@ -0,0 +1,129 @@
...
+  right_inv := Equiv.rightInverse_symm f
+  continuous_toFun := continuous_of_discreteTopology
+  continuous_invFun := continuous_of_discreteTopology
+
+/-- A bijection between discrete topoligical spaces is a homeomorpism. -/
+@[category test, AMS 54]
+theorem IsHomeomorph.equiv_of_discreteTopology {X  Y : Type*} [TopologicalSpace X]
+  [DiscreteTopology X] [TopologicalSpace Y] [DiscreteTopology Y]
+    (f : X ≃ Y) : IsHomeomorph f :=
+  isHomeomorph_iff_exists_homeomorph.mpr (Exists.intro (Homeomorph.OfDiscrete f) rfl)
```
Comment (YaelDillies) [inline FormalConjectures/Paper/Homogenous.lean]: Wait, why is this still here?

Comment (felixpernegger) [reply FormalConjectures/Paper/Homogenous.lean]: i didnt have time to finish and accidebtly commited already, will fix this later sorry

File: FormalConjectures/Paper/Homogenous.lean [hunk 16]
```diff
@@ -0,0 +1,111 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjecturesForMathlib.Topology.Discrete
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
```

Comment (felixpernegger) [reply FormalConjectures/Paper/Homogenous.lean]: thanks

File: FormalConjectures/Paper/Homogenous.lean [hunk 17]
```diff
@@ -0,0 +1,110 @@
...
+    use IsHomeomorph.homeomorph (Equiv.swap x y)
+      (IsHomeomorph.equiv_of_discreteTopology (Equiv.swap x y))
+    rw [IsHomeomorph.homeomorph_apply, Equiv.swap_apply_left]
+
+/-- Problem 13 in [Ar2013]:
+Is it true that every infinite homogeneous compact
+space contains a non-trivial convergent sequence? -/
+@[category research open, AMS 54]
+theorem homogeneousSpace_exists_inj_tendsto :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), ¬ Finite X → CompactSpace X →
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ (X : Type) (_ : TopologicalSpace X), ¬ Finite X → CompactSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 18]
```diff
@@ -0,0 +1,110 @@
...
+      HomogeneousSpace X → ∃ s : ℕ → X, s.Injective ∧ ∃ a : X, Tendsto s atTop (nhds a) := by
+  sorry
+
+/-- Problem 14 in [Ar2013]:
+Is it possible to represent an arbitrary compact space as an image
+of a homogeneous compact space under a continuous mapping? -/
+@[category research open, AMS 54]
+theorem homogeneousSpace_exists_surjective :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X →
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ (X : Type) (_ : TopologicalSpace X), CompactSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 19]
```diff
@@ -0,0 +1,110 @@
...
+    (X : Type*) [TopologicalSpace X] [MetrizableSpace X] : CountablyMonolithicSpace X := by
+  refine { metrizable_of_closure_of_countable := ?_ }
+  intros
+  infer_instance
+
+/-- Problem 15 in [Ar2013]:
+Is every homogeneous ω-monolithic compact space first countable? -/
+@[category research open, AMS 54]
+theorem firstCountableTopology_of_countablyMonolithicSpace :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X → HomogeneousSpace X →
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ (X : Type) (_ : TopologicalSpace X), CompactSpace X → HomogeneousSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 20]
```diff
@@ -0,0 +1,110 @@
...
+      CountablyMonolithicSpace X → FirstCountableTopology X := by
+  sorry
+
+/-- Problem 16 in [Ar2013]:
+Is the cardinality of every homogeneous ω-monolithic compact space not greater than 𝔠? -/
+@[category research open, AMS 54]
+theorem countablyMonolithicSpace_card_lt :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X → HomogeneousSpace X →
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ (X : Type) (_ : TopologicalSpace X), CompactSpace X → HomogeneousSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 21]
```diff
@@ -0,0 +1,110 @@
...
+      CountablyMonolithicSpace X → #X ≤ 𝔠 := by
+  sorry
+
+/-- Problem 17 in [Ar2013]:
+Is it true that every ω-monolithic compact space contains a point with a
+first countable neighborhood basis? -/
+@[category research open, AMS 54]
+theorem countablyMonolithicSpace_exists_nhds_generated_countable :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X →
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
    answer(sorry) ↔ ∀ (X : Type) (_ : TopologicalSpace X), CompactSpace X →
```

File: FormalConjectures/Paper/Homogenous.lean [hunk 22]
```diff
@@ -0,0 +1,110 @@
...
+      HomogeneousSpace X → ∃ s : ℕ → X, s.Injective ∧ ∃ a : X, Tendsto s atTop (nhds a) := by
+  sorry
+
+/-- Problem 14 in [Ar2013]:
+Is it possible to represent an arbitrary compact space as an image
+of a homogeneous compact space under a continuous mapping? -/
+@[category research open, AMS 54]
+theorem homogeneousSpace_exists_surjective :
+    answer(sorry) ↔ ∀ ⦃X : Type*⦄ (_ : TopologicalSpace X), CompactSpace X →
+      ∃ (Y : Type*) (_ : TopologicalSpace Y), CompactSpace Y ∧ HomogeneousSpace Y ∧
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Homogenous.lean]:
```suggestion
      ∃ (Y : Type) (_ : TopologicalSpace Y), CompactSpace Y ∧ HomogeneousSpace Y ∧
```

File: FormalConjectures/Paper/Homogenous.lean (hunk 19 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/Homogenous.lean]: Thank you! So just to make sure, when writing in a statement "Forall Types X...", always use ```Type``` instead of ```Type*```?

Comment (Paul-Lez) [reply FormalConjectures/Paper/Homogenous.lean]: I'd say for this sort of statement it's reasonable to stick to type (a bit like Yael's comment [here](https://github.com/google-deepmind/formal-conjectures/pull/1810#discussion_r2725021607))
